US08871756B2
2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-(piperidin-3-yl)quinolin-4-amine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and piperidin-3-amine. MS obsd. (ESI+) [(M+H)+] 437, 1H NMR (400 MHz, CD3OD) δ ppm 8.09-8.07 (d, J=8 Hz, 1 H), 7.99 (s, 1 H), 7.89-7.87 (q, J=7.2 Hz, 1 H), 7.73-7.68 (q, J=14 Hz, 2 H), 7.62-7.55 (m, 2 H), 6.14 (s, 1 H), 5.36 (s, 2 H), 4.58-4.51 (m, 2 H), 4.34 (s, 1 H), 3.75 (s, 2 H), 3.63-3.60 (d, J=11.6 Hz, 1 H), 3.47-3.44 (m, 1 H), 3.07-3.02 (d, J=11.6 Hz, 2 H), 2.47 (s, 3 H), 2.17-2.14 (m, 2 H), 2.05-2.00 (m, 1 H), 1.85-1.84 (m, 1 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | piperidin-3-amine | N1CC(CCC1)N | C5H12N2
product | 2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-(piperidin-3-yl)quinolin-4-amine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC2CNCCC2)C)=O | C24H28N4O2S
